US04820705
4-(2-p-Chlorobenzenesulphonamido-indan-5-yl)-4-oxobutyric acid
38.5 g (0.289 mol) of anhydrous aluminium chloride and 12.4 g (0.124 mol) of succinic anhydride are suspended in 250 ml of ethylene chloride and 25.4 g (0.082 mol) of 2-p-chlorobenzenesulphonamido-indane are then added, with vigorous stirring. In the course of this, a clear solution is formed. After 3 hours, the product is decomposed by means of ice and hydrochloric acid, and the reaction product is isolated from the organic phase. It is recrystallised from glacial acetic acid.

reactant | aluminium chloride | 0.289 mol, 38.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | succinic anhydride | 0.124 mol, 12.4 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 2-p-chlorobenzenesulphonamido-indane | 0.082 mol, 25.4 g | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=CC=C2C1 | C15H14ClNO2S
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene chloride | 250 ml | C(CCl)Cl | C2H4Cl2
product | 4-(2-p-Chlorobenzenesulphonamido-indan-5-yl)-4-oxobutyric acid | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)O)=O | C19H18ClNO5S
